US09353107B2
Step-iii: N-(3-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl) methanesulfonamide
Using similar reaction conditions as described in step-iii of example-1, N-(3-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)methane sulfonamide (106 mg, 0.17 mmol) was hydrolyzed with lithium hydroxide (36 mg, 0.861 mmol) in THF/water/methanol (12/6/2 ml) mixture to afford 10 mg (12.6% yield) of the pure product. 1H NMR (CD3OD, 300 MHz): δ 8.464-8.458 (d, 1H), 8.352-8.347 (d, 1H), 8.185 (s, 1H), 7.923 (s, 1H), 7.64 (s, 1H), 7.544-7.538 (m, 1H), 7.514-7.431 (m, 2H), 7.37-7.26 (m, 2H), 7.115-6.997 (m, 2H), 5.426 (s, 2H), 3.002 (s, 3H). MS: m/z=461.8 (M+1), HPLC: 96.947% in method A.

reactant | N-(3-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)methane sulfonamide | 0.17 mmol, 106 mg | FC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C=3C=C(C=CC3)NS(=O)(=O)C)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1 | C31H26FN5O4S2
reactant | lithium hydroxide | 0.861 mmol, 36 mg | [OH-].[Li+]
solvent | THF water methanol | 2 ml | C1CCOC1.O.CO
product | N-(3-(3-(1-(3-fluorobenzyl)-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl) methanesulfonamide | 10 mg, 12.6% yield | FC=1C=C(CN2N=CC(=C2)C2=CNC3=NC=C(C=C32)C=3C=C(C=CC3)NS(=O)(=O)C)C=CC1 | C24H20FN5O2S
